US05631255
1. Ethyl 2-hydroxy-3-methyl-4-(4-methoxyphenyl)-4-oxo-butyrate
A mixture of 82 g of 4-methoxypropiophenone and 76.6 g of ethyl glyoxylate is heated at 135° C. for 15 hours.

reactant | 4-methoxypropiophenone | 82 g | CCC(=O)C1=CC=C(C=C1)OC | C10H12O2
reactant | ethyl glyoxylate | 76.6 g | C(C=O)(=O)OCC | C4H6O3
product | Ethyl 2-hydroxy-3-methyl-4-(4-methoxyphenyl)-4-oxo-butyrate | OC(C(=O)OCC)C(C(=O)C1=CC=C(C=C1)OC)C | C14H18O5
